US07884207B2
Sodium azide (1.78 g, 27.4 mmol) was added to a solution of 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl methanesulfonate (prepared as described in Part D, 24.9 mmol) in dimethylformamide (100 mL). The reaction mixture was stirred for 2.5 d and additional sodium azide (160 mg) was added. The mixture was stirred an additional 1 d, then was diluted with diethyl ether (250 mL) and washed with water (3×75 mL). The combined aqueous layers were back-extracted with diethyl ether (50 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated to afford {[1-(3-azidopropyl)cyclohexyl]oxy}(tert-butyl)dimethylsilane (7.05 g, 95% over two steps) as a pale yellow oil. A mixture of the {[1-(3-azidopropyl)cyclohexyl]oxy}(tert-butyl)dimethylsilane (7.05 g, 23.7 mmol) and 5% palladium on carbon (0.71 g) in ethanol (100 mL) was hydrogenated at 30 psi (2.1×105 Pa) for 4 h on a Parr apparatus. The reaction mixture was filtered through CELITE filter agent, which was rinsed afterwards with dichloromethane, and the filtrate was concentrated to give 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-amine as a pale yellow oil (6.57 g, 102%) that contained a trace amount of solvent.

reactant | {[1-(3-azidopropyl)cyclohexyl]oxy}(tert-butyl)dimethylsilane | 23.7 mmol, 7.05 g | N(=[N+]=[N-])CCCC1(CCCCC1)O[Si](C)(C)C(C)(C)C | C15H31N3OSi
catalyst | palladium on carbon | 0.71 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-amine | 6.57 g, 102% | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCN | C15H33NOSi
